US04579849
1-Methyl-9-(1,3-dioctanoyloxy-2-propoxymethyl)guanine
1-Methyl-9-(1,3-dihydroxy-2-propoxymethyl) guanine (340 mg, 1.26 mmol) was suspended in dry DMF and dry pyridine (approximately 20 ml total) and evaporated to dryness. This process was repeated twice, the final time concentrating the suspension down to 10 ml. This suspension was cooled to 0°, under N2, and a solution of octanoyl chloride (822 mg, 5.05 mmol) in dry DMF (1 ml) was added. This reaction was stirred overnight at room temperature. Methylene chloride was then added and the mixture was extracted with saturated aqueous NaHCO3 solution. The organic phase was then washed three times with H2O, dried over MgSO4, filtered and evaporated to dryness. The residual oil was dissolved in CH2Cl2 and applied to a column of silica gel, packed in CH2Cl2. Elution was first performed with CH2Cl2 followed by 1% MeOH in CH2Cl2 (200 ml), 2% MeOH in CH2Cl2 (200 ml), 3% MeOH in CH2Cl2 (100 ml) and finally 5% MeOH in CH2Cl2 (100 ml). Fractions containing the required product were pooled and evaporated to dryness to give 529 mg of product. It was recrystallized from ether/petroleum ether. The PMR spectrum was in accord with the structure.

reactant | 1-Methyl-9-(1,3-dihydroxy-2-propoxymethyl) guanine | 1.26 mmol, 340 mg | CN1C(N)=NC=2N(C=NC2C1=O)COC(CO)CO | C10H15N5O4
reactant | octanoyl chloride | 5.05 mmol, 822 mg | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-9-(1,3-dioctanoyloxy-2-propoxymethyl)guanine | 529 mg | CN1C(N)=NC=2N(C=NC2C1=O)COC(COC(CCCCCCC)=O)COC(CCCCCCC)=O | C26H43N5O6
